US08535974B2
Synthesis of 4,8-bis(3-ethylheptyl)thieno[2,3-f]benzothiophene
A dry 250 mL 1-neck flask was flushed with N2 and was charged with 4,8-bis(3-ethylhept-1-ynyl)thieno[2,3-f]benzothiophene (3.04 g, 0.007 mol), Pd/C wet support (0.82 g, 10%) and THF (15 mL, 0.5 M). The flask was evacuated and backfilled with hydrogen. The flask was kept under a hydrogen atmosphere and was monitored by TLC. After the reaction was completed, the mixture was filtered through Celite and solvent was removed by rotary evaporation.

reactant | 4,8-bis(3-ethylhept-1-ynyl)thieno[2,3-f]benzothiophene | 0.007 mol, 3.04 g | C(C)C(C#CC1=C2C(=C(C=3C=CSC31)C#CC(CCCC)CC)SC=C2)CCCC | C28H34S2
catalyst | Pd/C | [Pd] | Pd
solvent | THF | 0.5 M, 15 mL | C1CCOC1 | C4H8O
product | 4,8-bis(3-ethylheptyl)thieno[2,3-f]benzothiophene | C(C)C(CCC1=C2C(=C(C=3C=CSC31)CCC(CCCC)CC)SC=C2)CCCC | C28H42S2
